US09193693B2
Step 1. Methyl 2-phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), 4-phenylpiperidine (141.68 mg, 0.88 mmol, 2.00 equiv), DIEA (170.3 mg, 1.32 mmol, 3.00 equiv), N,N-dimethylformamide (4 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with PE/EA (100:1). This resulted in 92.9 mg (49%) of methyl 2-phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-phenylpiperidine | 0.88 mmol, 141.68 mg, 2.00 equiv | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | DIEA | 1.32 mmol, 170.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Methyl 2-phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=CC=C1)C(=O)OC | C27H25N3O2
